US05264438
A mixture of methyl 4-hydroxymethyl-2-nitrobenzoate (1.49 g), thionyl chloride (1.08 g), dry pyridine (0.1 g), dry ether (70 ml) and dry tetrahydrofuran (20 ml) was stirred overnight. The reaction mixture was washed in turn with 1N hydrochloric acid and sat. sodium bicarbonate solution, dried over magnesium sulfate and evaporated to give methyl 4-chloromethyl-2-nitrobenzoate (1.60 g).

reactant | methyl 4-hydroxymethyl-2-nitrobenzoate | 1.49 g | OCC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO5
reactant | thionyl chloride | 1.08 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.1 g | N1=CC=CC=C1 | C5H5N
reactant | ether | 70 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 4-chloromethyl-2-nitrobenzoate | 1.60 g | ClCC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H8ClNO4
